US05057513
Cyclohexanone (196.3 g) and pyrrolidine (214 g) in benzene (500 ml) were refluxed under nitrogen with a Dean-Stark apparatus, until no more water separated out. The solvents were then evaporated off under nitrogen, and the residual oil was distilled to give 1-(1-pyrrolidinyl)cyclohexene (290 g).

reactant | Cyclohexanone | 196.3 g | C1(CCCCC1)=O | C6H10O
reactant | pyrrolidine | 214 g | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 1-(1-pyrrolidinyl)cyclohexene | 290 g | N1(CCCC1)C1=CCCCC1 | C10H17N
